### ISSUE TITLE
Problem with example in Section 7.4

### ISSUE THREAD

**Issue by williamdemeo** [leanprover/theorem_proving_in_lean#32]
The example is

```lean
    namespace hide
    open nat

    -- BEGIN
    theorem zero_add (n : ℕ) : 0 + n = n :=
    nat.rec_on n
      (show 0 + 0 = 0, from rfl)
      (assume n,
        assume ih : 0 + n = n,
        show 0 + succ n = succ n, from
          calc
            0 + succ n = succ (0 + n) : rfl
              ... = succ n : by rw ih)

    -- END
    end hide
```

When I try it on my local machine in emacs, Lean complains

```
type mismatch at application
  nat.rec_on n
term
  n
has type
  ℕ
but is expected to have type
  nat
```
So I changed `(n : ℕ)` to `(n : nat)`, but that's probably not right.  It results in the following error:
```
"eliminator" elaborator type mismatch, term
  show 0 + 0 = 0, from rfl
has type
  0 + 0 = 0
but is expected to have type
  0 + nat.zero = nat.zero
```
**First question:** we used `open nat`, so why is it suggesting `0 + nat.zero = nat.zero` instead of `0 + zero = zero`?

**Second question:** should I change `(n : nat)` back to `(n : ℕ)` in the argument to `theorem zero_add`?

Any suggestions would be appreciated.  

Should update my Lean installation to make sure I didn't miss any recent changes that might affect this?  I updated about a month ago, I think.

**Comment by avigad** [comment]
That's strange. It works on my local installation, and also in the live Javascript version of Lean.

It sounds like you have an extra copy of `nat` lying around. The difficulty with giving examples like this in the tutorial is that theorems like `nat_add` are already defined in the library, so we put them in a funny `hide` namespace so that we can use the same names. Did you leave such a definition of `nat` in the file you are editing?

**Comment by williamdemeo** [comment]
Thanks for the quick response!  Nope, I don't have another `nat` definition in this file.

The following modification of the example works for me (changes: I use `namespace nat... end nat` instead of `open nat`, and I changed `0` to `zero` in two places.)

```lean
namespace nat

    theorem zero_add (n : nat) : 0 + n = n := 
    nat.rec_on n
      (show 0 + zero = zero, from rfl)
        (assume n, 
          assume ih : 0 + n = n,
          show 0 + nat.succ n = nat.succ n, from 
            calc
              0 + succ n = succ (0 + n) : rfl
                ... = succ n : by rw ih)
end nat
```

**Comment by avigad** [comment]
So the lines above are the entire contents of your file? If you add the line `set_option pp.all true` before the definition of `zero_add`, what does the error message say? What do you see if you type
```lean
#print nat
#print ℕ
```
after setting the option?

**Comment by williamdemeo** [comment]
No, there's a lot more in the file.  I'm going through the book one example at a time, and all prior examples from Chapter 7 are also in the file, but every section is surrounded by `namespace Sec_7_1... end Sec_7_1`, for example (plus any additional namespace or section commands I need so things don't conflict).

I just split off the Section 7.4 examples into a separate file to see if that helped, and I added `set_option pp.all true` as you suggested.  That option certainly makes the error message clearer.  Thanks!

I can probably figure this out now.  Thanks for your help!  But in case you're still curious, the full contents of my file are now as follows:

```lean
#print "==========================================="
#print "Section 7.4. Defining the Natural Numbers"
#print " "

namespace Sec_7_4

  inductive nat : Type 
  | zero : nat 
  | succ : nat → nat

  #check @nat.rec_on 

  namespace nat
    def add (m n : nat) : nat := 
    nat.rec_on n m (fun n add_m_n, succ add_m_n)

    #reduce add (succ zero) (succ (succ zero))

    instance : has_zero nat := has_zero.mk zero
    instance : has_add nat := has_add.mk add

    theorem add_zero (m : nat) : m + 0 = m := rfl
    theorem add_succ (m n : nat) : m + succ n = succ (m + n) := rfl
  end nat

  open nat

  set_option pp.all true

    theorem zero_add (n : ℕ) : 0 + n = n := 
    nat.rec_on n
      (show 0 + 0 = 0, from rfl)
        (assume n, 
          assume ih : 0 + n = n,
          show 0 + nat.succ n = nat.succ n, from 
            calc
              0 + succ n = succ (0 + n) : rfl
                ... = succ n : by rw ih)

    theorem zero_add' (n : ℕ) : 0 + n = n := 
    nat.rec_on n rfl (λ n ih, by simp only [add_succ, ih])

end Sec_7_4
```

The `nat.rec_on` appearing in `theorem zero_add` is underlined and the error is now as follows:

```lean
type mismatch at application
  @Sec_7_4.nat.rec_on.{?l_1} ?m_2 n
term
  n
has type
  nat
but is expected to have type
  Sec_7_4.nat
```

**Comment by avigad** [comment]
The problem is that the library defines `nat`, and you just defined it again here:
```lean
  inductive nat : Type 
  | zero : nat 
  | succ : nat → nat
```
So there are two versions of `nat`, namely, `_root_.nat` and `Sec_7_4.nat`. There are also two versions of `zero`, two versions of `succ`, etc. The ambiguity is confusing Lean.

**Comment by williamdemeo** [comment]
I see.  I thought that as long as I was still inside the `Sec_7_4` namespace Lean would assume I meant `Sec_7_4.nat`.  Thanks again for the help!
